US06297340B1
380 mg Of styrene and 240 mg of 1,1,3,3-tetramethyldisiloxane were placed in a glass tube to which 20 μL (21.6 mg) of acetic anhydride and 2 μL (2.3 mg) of triisopropylsilyl trifluoromethanesulfonate (i-Pr3SiOSO2CF3) were added by microsyringe. 5 μL (platinum weight: 0.0017 mg) Of a toluene solution (platinum content: 0.04 wt %) of zero-valent platinum complexed with divinylsiloxane were added to this. The tube was put in a 60° C. oil bath and heated for 8 hours. After cooling, the tube contents were analyzed by gas chromatography, which revealed that the styrene conversion rate was 55%, 1-phenethyl-1,1,3,3-tetramethyldisiloxane had been produced at a yield of 58% (based on 1,1,3,3-tetramethyldisiloxane) and 1,3-bis(phenethyl)-1,1,3,3-tetramethyldisiloxane at a yield of 21%, and the ratio of alpha addition to beta addition of phenethyl groups was 1:49.

reactant | styrene | 380 mg | C=CC1=CC=CC=C1 | C8H8
reactant | 1,1,3,3-tetramethyldisiloxane | 240 mg | C[SiH](O[SiH](C)C)C | C4H14OSi2
reactant | acetic anhydride | 20 μL, 21.6 mg | C(C)(=O)OC(C)=O | C4H6O3
reactant | triisopropylsilyl trifluoromethanesulfonate | 2 μL, 2.3 mg | FC(S(=O)(=O)O[Si](C(C)C)(C(C)C)C(C)C)(F)F | C10H21F3O3SSi
reactant | 1-phenethyl-1,1,3,3-tetramethyldisiloxane | C(CC1=CC=CC=C1)[Si](O[SiH](C)C)(C)C | C12H22OSi2
catalyst | platinum | [Pt] | Pt
solvent | toluene | 5 μL, 0.0017 mg | C1(=CC=CC=C1)C | C7H8
product | 1,3-bis(phenethyl)-1,1,3,3-tetramethyldisiloxane | yield of 58% | C(CC1=CC=CC=C1)[Si](O[Si](C)(C)CCC1=CC=CC=C1)(C)C | C20H30OSi2
